US07598257B2
To a mixture of 4-chloro-7-[2-(trimethylsilyl)ethoxy]methyl-7H-pyrrolo[2,3-d]pyrimidine (1.4 g, 0.0049 mol) and 4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazole (1.4 g, 0.0074 mol) in DMF (40 mL, 0.5 mol) was added potassium carbonate (2.0 g, 0.015 mol) in 15 mL of water. The mixture was purged with a steady stream of nitrogen for 15 minutes. Tetrakis(triphenyl-phosphine)palladium(0) (0.41 g, 0.00036 mol) was added and the reaction was heated to 125° C. for 30 min. The mixture was allowed to cool then diluted with ethyl acetate. The diluted reaction mixture was washed with water, brine, dried over Na2SO4 and concentrated to give a solution in a small volume of DMF (about 2-3 mL). Water was added, causing the material to form a gum on the walls of the flask. Then water was decanted, and the solids were dissolved in ethyl acetate. The solution was dried over Na2SO4, and concentrated in vacuo to afford a yellow solid. The product was triturated with ethyl ether to yield 4-(1H-pyrazol-4-yl)-7-[2-(trimethylsilyl)ethoxy]methyl-7H-pyrrolo[2,3-d]pyrimidine as a white powder which was dried under vacuum (1 g, 60%). 1H NMR (300 MHz, CDCl3): δ 10.80 (br s, 1H), 8.93 (s, 1H), 8.46 (s, 2H), 7.46 (d, 1H), 6.88 (d, 1H), 5.73 (s, 2H), 3.61 (dd, 2H), 0.98 (dd, 2H), 0.00 (s, 9H); MS(ES): 316 (M+1).

reactant | 4-chloro-7-[2-(trimethylsilyl)ethoxy]methyl-7H-pyrrolo[2,3-d]pyrimidine | 0.0049 mol, 1.4 g | ClC=1C2=C(N=CN1)N(C=C2)COCC[Si](C)(C)C | C12H18ClN3OSi
reactant | 4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazole | 0.0074 mol, 1.4 g | CC1(OB(OC1(C)C)C=1C=NNC1)C | C9H15BN2O2
reactant | DMF | 0.5 mol, 40 mL | CN(C)C=O | C3H7NO
reactant | potassium carbonate | 0.015 mol, 2.0 g | C([O-])([O-])=O.[K+].[K+]
solvent | water | 15 mL | O | H2O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 4-(1H-pyrazol-4-yl)-7-[2-(trimethylsilyl)ethoxy]methyl-7H-pyrrolo[2,3-d]pyrimidine | N1N=CC(=C1)C=1C2=C(N=CN1)N(C=C2)COCC[Si](C)(C)C | C15H21N5OSi
